US07557133B2
Thus obtained bromomethyl ketone derivative (X, 12.9 g, 31.0 mmol) and phenol (3.23 g, 1.2 Eq) were dissolved in dimethylformamide (30 ml), KF(4.53 g, 2.5 Eq) was added, and the mixture was stirred for two hours to give phenoxymethyl ketone derivative (XIb). This compound was dissolved in methanol (40 ml)-THF (100 ml) and was reacted by adding NaBH4 (2.35 g)-methanol solution (40 ml) (−10□-room temperature, two hours). The reaction was stopped by acetic acid, and the reaction mixture was distilled under reduced pressure to remove methanol. The residue was extracted with ethyl acetate (50 ml×2), washed with water and aqueous sodium chloride solution, dried (anhydrous Na2SO4), concentrated under reduced pressure, and separated-purified by column chromatography (ethyl acetate-hexane, 1:7) to give a compound (XIIb, 6.50 g, Yield 50%) in a diastereomeric form of which amino group is protected by benzyloxycarbonyl.

reactant | bromomethyl ketone | 31.0 mmol, 12.9 g | BrCC(=O)CBr | C3H4Br2O
reactant | phenol | 3.23 g, 1.2 Eq | C1(=CC=CC=C1)O | C6H6O
reactant | KF | 4.53 g, 2.5 Eq | [F-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | phenoxymethyl ketone | Yield 50% | O(C1=CC=CC=C1)CC(=O)COC1=CC=CC=C1 | C15H14O3
